datasets/RMG-dataset.csv
rxn,Ea
[C:5](=[S:6])[H:7].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:4][C:5](=[S:6])[H:7].[S:0]=[C:1]([S:2])[H:3],-5.0208
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2](=[C:3]([H:13])[H:14])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8].[O:4][O:5][H:12],127.1936
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([S:15][H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:16])[H:7])([H:5])[H:6].[C:14]([S:15][H:19])([H:17])[H:18],69.036
[H:0].[c:1]1([H:13])[c:2]([H:14])[c:3]([H:15])[c:4](-[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2[H:20])[c:11]([H:21])[c:12]1[H:22]>>[H:0][H:20].[c:1]1([H:13])[c:2]([H:14])[c:3]([H:15])[c:4](-[c:5]2[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]([H:19])[c:10]2)[c:11]([H:21])[c:12]1[H:22],68.420952
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]=[S:6])([H:7])([H:8])[H:9]>>[C:0](=[S:1])[H:3].[H:2][C:5]([C:4]([H:7])([H:8])[H:9])=[S:6],43.932
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[N:14]([H:15])[H:16]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3]([H:11])([H:12])[H:13])([H:4])([H:5])[H:6].[H:7][N:14]([H:15])[H:16],26.9868
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:19]([C:20](=[C:21]([H:25])[H:26])[H:24])([H:22])[H:23],31.7984
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:19])[H:9],5.52288
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18](=[C:19]([H:21])[H:22])[H:20]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])([H:12])[C:18](=[C:19]([H:21])[H:22])[H:20])[H:11])[H:10],6.0668
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[S:9]([H:10])[H:11]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[S:9][H:11])[H:4].[H:10],130.541
[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([O:5][O:6])([H:16])[H:17])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([H:16])[H:17])([H:10])[H:11])([H:7])([H:8])[H:9].[O:5][O:6][H:12],120.9176
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7].[O:16][O:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])[H:8])([H:6])[H:7].[H:5][O:16][O:17],39.003248
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:13][C:21]([H:22])([H:23])[H:24],47.291752
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([H:26])[H:27])[H:25]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:23](=[C:24]([H:26])[H:27])[H:25])[H:14])[H:13])([H:11])[H:12],11.7152
[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:7])([H:8])[C:3]([H:9])=[C:4]1[H:10].[C:11](=[C:12]([H:14])[H:15])[H:13]>>[C:0]1([H:5])=[C:1]([H:6])[C:2]([H:8])[C:3]([H:9])=[C:4]1[H:10].[H:7][C:11](=[C:12]([H:14])[H:15])[H:13],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:17]([C:16]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])[H:9])[H:8])([H:6])[H:7],34.3088
[H:0].[N:1][H:2]>>[H:0][N:1][H:2],0.0
[C:0]([C:1]([N:2]([H:7])[H:8])[H:6])([H:3])([H:4])[H:5].[H:9]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:4])[H:5].[H:3][H:9],2.460192
[C:0](=[C:1]([C:2]1[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:9])([H:7])[H:8]>>[C:0](=[C:1]=[C:2]1[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])([H:7])[H:8].[H:9],276.06032
